US05155220
Preparation of 4-propyl-1-heptene (Ia)
To 100 g of 4-propylheptyl bromide in 400 ml of benzene was added 90 g of t-BuOK in 300 ml of DM$0. The temperature was kept below 50° C. during the addition. The mixture was stirred for 2 hrs and 600 ml of water was added. The organic phase was separated and the aqueous phase extracted with petroleumether (b.p. 40°-60°). The combined organic phases were washed with water and brine. After drying with Na2SO4 and evaporation the residue was distilled. Yield: 23.2 g (b.p. 56°-59° C./75 Torr). 1H-NMR(CDCl3): δ0.9(6H,CH3), 1.2(9H,CH2,CH), 2.0(2H,CH2C=C), 4.8-5.1(2H,CH2 =C), 5.5-6.0(1H,CH=C)

reactant | 4-propylheptyl bromide | 100 g | C(CC)C(CCCBr)CCC | C10H21Br
reactant | t-BuOK | 90 g | CC(C)(C)[O-].[K+]
reactant | water | 600 ml | O | H2O
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | 4-propyl-1-heptene | C(CC)C(CC=C)CCC | C10H20
